US09085517B2
4-{[4-chloro-3-(trifluoromethyl)phenoxy]methyl}-N-[(dimethylamino)sulfonyl]benzamide
To a solution of 4-{[4-chloro-3-(trifluoromethyl)phenoxy]methyl}benzoic acid (Preparation 16, 237 mg, 0.72 mmol) in dichloromethane (8 mL) was added EDCI (344 mg, 1.79 mmol) followed by addition of N,N-dimethylsulfamide (222 mg, 1.79 Calculation isn't correct mmol). The reaction was left to stir at room temperature for 3 hours. A solution of KHSO4 (10 mL) was added and the mixture separated using a phase separation cartridge. The organics were dried in vacuo to yield a white solid as the title compound (285 mg, 97%).

reactant | 4-{[4-chloro-3-(trifluoromethyl)phenoxy]methyl}benzoic acid | 0.72 mmol, 237 mg | ClC1=C(C=C(OCC2=CC=C(C(=O)O)C=C2)C=C1)C(F)(F)F | C15H10ClF3O3
reactant | EDCI | 1.79 mmol, 344 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | N,N-dimethylsulfamide | 222 mg | CN(S(=O)(=O)N)C | C2H8N2O2S
reactant | KHSO4 | 10 mL | OS(=O)(=O)[O-].[K+]
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | 4-{[4-chloro-3-(trifluoromethyl)phenoxy]methyl}-N-[(dimethylamino)sulfonyl]benzamide | 285 mg, 97% | ClC1=C(C=C(OCC2=CC=C(C(=O)NS(=O)(=O)N(C)C)C=C2)C=C1)C(F)(F)F | C17H16ClF3N2O4S
